US04182776
Ethyl p-{[2-(1-Naphthyloxy)ethyl]amino}benzoate
A solution of 29.1 g of 2-(1-naphthyloxy)ethanol O-methanesulfonate and 33 g of ethyl p-aminobenzoate in 100 ml of hexamethylphosphoramide is heated at 100° C. for 16 hours. The solution is worked up as described in Example 3 to give the product. Recrystallization gives crystals, mp 124°-127° C.

reactant | 2-(1-naphthyloxy)ethanol O-methanesulfonate | 29.1 g | CS(=O)(=O)OCCOC1=CC=CC2=CC=CC=C12 | C13H14O4S
reactant | ethyl p-aminobenzoate | 33 g | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
solvent | hexamethylphosphoramide | 100 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | Ethyl p-{[2-(1-Naphthyloxy)ethyl]amino}benzoate | C1(=CC=CC2=CC=CC=C12)OCCNC1=CC=C(C(=O)OCC)C=C1 | C21H21NO3
